### PR TITLE
chore: changes for leanprover/lean4#2478

### PR DESCRIPTION
**Pull request by mattrobball**
These are adaptions to adjust for the changes to structure instance elaboration in leanprover/lean4#2478. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mattrobball** [comment]
!bench

**Comment by semorrison** [comment]
The benchmarking seems to say:
* this results in a speed up for **many** files in Mathlib
* but a significant slow-down in the worst files
* overall a 4.5% decrease in instructions
* overall a 2.5% wall-clock slow-down

I'm not entirely sure what to do with that.

The optimist in me says: the worst files (particularly AlgebraicGeometry.*) have something fundamentally wrong in them (but what?), and when we sort them out they will, like everything else, get a speed up too.

The pessimist says: this is an overall slow-down.

**Comment by mattrobball** [comment]
Since there are existing fixes for `RingTheory.Kaehler` and `Analysis.NormedSpace.Operator`, let's eliminate them from consideration. 

The significant regressions (double digits) in large files are then all concentrated in `AlgebraicGeometry`. 

Parts of AG are unusable at the moment.

Everyone is affected by it since one file and the path to it completely control the build time for all of Mathlib. This is why total build time is poor measure of performance improvement. It only measures the effect on `RingHomProperties`.

The terms exposed are simply too large. I'd wager that it leads all folders in use of `erw` when appropriately measured, for example. 

The change here creates more tightly packed terms which is great when your design is disciplined but terrible when it's not. In particular, when you rely on exposing giant terms in unification, you are going to need a more cycles to succeed and pay the price. 

There needs to be a refactor enforcing API boundaries in AG. Should we postpone the benefits for everyone else until this is done?

**Comment by mattrobball** [comment]
> but a significant slow-down in the worst files

Excluding `Kaehler` and `OperatorNorm`, there is a good net drop in instructions for the ten largest (by instructions) files. 

It only gets better when you go to top 20 or 30. 

Areas of concern like `GroupCohomology` (number 3 and 5) get noticeably better.

File: Mathlib/AlgebraicGeometry/Spec.lean [hunk 1]
```diff
@@ -328,7 +328,7 @@ def SpecΓIdentity : Spec.toLocallyRingedSpace.rightOp ⋙ Γ ≅ 𝟭 _ :=
   Iso.symm <| NatIso.ofComponents (fun R =>
     -- Porting note : In Lean3, this `IsIso` is synthesized automatically
     letI : IsIso (toSpecΓ R) := StructureSheaf.isIso_to_global _
-    asIso (toSpecΓ R)) fun {X Y} f => by exact Spec_Γ_naturality (R := X) (S := Y) f
+    asIso (toSpecΓ R)) fun {X Y} f => by convert Spec_Γ_naturality (R := X) (S := Y) f
```
Comment (semorrison) [inline Mathlib/AlgebraicGeometry/Spec.lean:331]: Can this be moved to a separate PR? It is an incidental speed-up that works on master too.

File: Mathlib/AlgebraicGeometry/AffineScheme.lean [hunk 2]
```diff
@@ -519,7 +519,7 @@ theorem isLocalization_basicOpen {X : Scheme} {U : Opens X} (hU : IsAffineOpen U
   -- Porting note : `erw naturality_assoc` for some reason does not work, so changed to a version
   -- where `naturality` is used, the good thing is that `erw` is changed back to `rw`
   simp only [←Category.assoc]
-  rw [hU.fromSpec.val.c.naturality, hU.fromSpec_app_eq]
+  simp_rw [hU.fromSpec.val.c.naturality, hU.fromSpec_app_eq]
```
Comment (semorrison) [inline Mathlib/AlgebraicGeometry/AffineScheme.lean:522]: Similarly here.

File: Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean [hunk 3]
```diff
@@ -181,13 +181,16 @@ def toΓSpecCBasicOpens :
...
 def toΓSpecSheafedSpace : X.toSheafedSpace ⟶ Spec.toSheafedSpace.obj (op (Γ.obj (op X))) where
   base := X.toΓSpecBase
-  c :=
-    TopCat.Sheaf.restrictHomEquivHom (structureSheaf (Γ.obj (op X))).1 _ isBasis_basic_opens
-      X.toΓSpecCBasicOpens
+  c := by
+    let equiv := TopCat.Sheaf.restrictHomEquivHom (structureSheaf ↑(Γ.obj (op X))).val
+      ((TopCat.Sheaf.pushforward (toΓSpecBase X)).obj (𝒪 X)) isBasis_basic_opens
+    apply equiv.toFun
+    convert toΓSpecCBasicOpens X
```
Comment (semorrison) [inline Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean:188]: And here.

File: Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean [hunk 4]
```diff
@@ -449,7 +442,7 @@ theorem adjunction_unit_app_app_top (X : Scheme) :
     Spec.sheafedSpaceObj_carrier, Spec.sheafedSpaceObj_presheaf,
     SpecΓIdentity_inv_app, Category.id_comp] at this
   rw [← op_inv, Quiver.Hom.op_inj.eq_iff] at this
-  rw [SpecΓIdentity_hom_app]
+  simp_rw [SpecΓIdentity_hom_app]
```
Comment (semorrison) [inline Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean:445]: This one too.

File: Mathlib/AlgebraicGeometry/Properties.lean [hunk 5]
```diff
@@ -89,14 +89,14 @@ theorem isReducedOfOpenImmersion {X Y : Scheme} (f : X ⟶ Y) [H : IsOpenImmersi
...
   apply (config := { allowSynthFailures := true }) isReducedOfStalkIsReduced
   intro x; dsimp
-  have : _root_.IsReduced (CommRingCat.of <| Localization.AtPrime (PrimeSpectrum.asIdeal x)) := by
-    dsimp; infer_instance
-  exact isReduced_of_injective (StructureSheaf.stalkIso R x).hom
-    (StructureSheaf.stalkIso R x).commRingCatIsoToRingEquiv.injective
+  apply @isReduced_of_injective _ _ _ _ _ _ (StructureSheaf.stalkIso R x).hom
+    (StructureSheaf.stalkIso R x).commRingCatIsoToRingEquiv.injective ?_
+  dsimp
+  infer_instance
```
Comment (semorrison) [inline Mathlib/AlgebraicGeometry/Properties.lean:99]: Okay, just noting for myself: this change results in a slow-down on master, but a speed-up here.

File: Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean (hunk 3 above)
Comment (semorrison) [inline Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean:188]: Note: this change results in a slow-down on master, but a speed-up here.

File: Mathlib/Analysis/Fourier/AddCircle.lean [hunk 6]
```diff
@@ -368,8 +368,12 @@ theorem fourierCoeff_eq_intervalIntegral (f : AddCircle T → E) (n : ℤ) (a :
...
 theorem fourierCoeff.const_smul (f : AddCircle T → E) (c : ℂ) (n : ℤ) :
     fourierCoeff (c • f) n = c • fourierCoeff f n := by
-  simp_rw [fourierCoeff, Pi.smul_apply, ← smul_assoc, smul_eq_mul, mul_comm, ← smul_eq_mul,
-    smul_assoc, integral_smul]
+  simp only [fourierCoeff]
+  simp_rw [Pi.smul_apply, ← smul_assoc, smul_eq_mul, mul_comm, ← smul_eq_mul]
+  rw [←integral_smul]
+  congr
+  ext x
+  rw [smul_assoc]
```
Comment (semorrison) [inline Mathlib/Analysis/Fourier/AddCircle.lean:376]: Do we know what happened here?

File: Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean [hunk 7]
```diff
@@ -333,17 +336,7 @@ theorem right_triangle (R : CommRingCat) :
...
--- Porting note : the two unification hint is to help compile `locallyRingedSpaceAdjunction`
--- faster, from 900000 to normal maxHeartbeats
-/-- opposite of composition of two functors -/
-unif_hint uh_functor_op1 where ⊢
-  Functor.op (Spec.toLocallyRingedSpace.rightOp ⋙ Γ) ≟
-  Spec.toLocallyRingedSpace.{u} ⋙ Γ.rightOp in
-
-/-- opposite of identity functor -/
-unif_hint uh_functor_op2 where ⊢
-  Functor.op (𝟭 CommRingCat.{u}) ≟ 𝟭 CommRingCatᵒᵖ in
```
Comment (semorrison) [inline Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean:345]: These already seem to have no effect on `master`, so should be removed in a separate PR.

Comment (mattrobball) [reply Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean:345]: #7304

**Comment by mattrobball** [comment]
#6149 and #7299 for `RingTheory.Kaehler` and `NormedSpace.OperatorNorm`.

File: Mathlib/AlgebraicGeometry/AffineScheme.lean (hunk 2 above)
Comment (mattrobball) [reply Mathlib/AlgebraicGeometry/AffineScheme.lean:522]: #7306

File: Mathlib/Analysis/Fourier/AddCircle.lean (hunk 6 above)
Comment (mattrobball) [reply Mathlib/Analysis/Fourier/AddCircle.lean:376]: No but there is a simpler fix.

**Comment by mattrobball** [comment]
It looks like `LinearAlgebra.DirectSum.Finsupp` is suffering from the compilation ailment as `OperatorNorm`.

**Comment by mattrobball** [comment]
Going to try to find some free time to if the interaction of #6149 and this tool chain helps pinpoint the underlying issues in `RingTheory.Kaehler`. It is slowed down again a surprising amount.

**Comment by mattrobball** [comment]
!bench

**Comment by mattrobball** [comment]
!bench

**Comment by semorrison** [comment]
That benchmark is great news!

**Comment by mattrobball** [comment]
!bench

**Comment by mattrobball** [comment]
!bench

File: Mathlib/Algebra/Lie/Subalgebra.lean [hunk 8]
```diff
@@ -193,10 +193,8 @@ theorem mk_coe (S : Set L) (h₁ h₂ h₃ h₄) :
   rfl
 #align lie_subalgebra.mk_coe LieSubalgebra.mk_coe
 
-@[simp]
```
Comment (mattrobball) [inline Mathlib/Algebra/Lie/Subalgebra.lean:196]: `simp` proves this

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 9]
```diff
@@ -128,7 +128,6 @@ theorem coe_toSet_mk (S : Set M) (h₁ h₂ h₃ h₄) :
   rfl
 #align lie_submodule.coe_to_set_mk LieSubmodule.coe_toSet_mk
 
-@[simp]
```
Comment (mattrobball) [inline Mathlib/Algebra/Lie/Submodule.lean:131]: `simp` proves this

File: Mathlib/Analysis/Calculus/Deriv/Comp.lean [hunk 10]
```diff
@@ -125,6 +125,8 @@ theorem HasDerivAtFilter.comp_hasFDerivAtFilter {f : E → 𝕜'} {f' : E →L[
     (hL : Tendsto f L'' L') : HasFDerivAtFilter (h₂ ∘ f) (h₂' • f') x L'' := by
   convert (hh₂.restrictScalars 𝕜).comp x hf hL
   ext x
+  dsimp
+  rw [Pi.smul_apply]
```
Comment (mattrobball) [inline Mathlib/Analysis/Calculus/Deriv/Comp.lean:129]: Still have `simp only [Pi.smul_apply]` failures but those seem to be part of a larger problem as seen with the recent core change.

File: Mathlib/Analysis/NormedSpace/AffineIsometry.lean [hunk 11]
```diff
@@ -877,7 +877,7 @@ namespace AffineSubspace
 /-- An affine subspace is isomorphic to its image under an injective affine map.
 This is the affine version of `Submodule.equivMapOfInjective`.
 -/
-@[simps]
+@[simps linear, simps! toFun]
```
Comment (mattrobball) [inline Mathlib/Analysis/NormedSpace/AffineIsometry.lean:880]: `simps!` tries to unfold all fields equally and goes too far, compared to what exists, on the `linear` field. 

Generally, since we no longer insert the extra eta expansion when filling the parent classes, `simps` doesn't find a constructor for those fields anymore. It then asks for `simps!`.

**Comment by semorrison** [comment]
The latest benchmarking seems great. There's one nasty regression, but just one, and a big overall speedup.

File: Mathlib/Algebra/Category/GroupCat/Basic.lean [hunk 12]
```diff
@@ -494,7 +494,9 @@ end CategoryTheory.Aut
 instance GroupCat.forget_reflects_isos : ReflectsIsomorphisms (forget GroupCat.{u}) where
   reflects {X Y} f _ := by
     let i := asIso ((forget GroupCat).map f)
-    let e : X ≃* Y := { i.toEquiv with map_mul' := by aesop }
+    let e : X ≃* Y :=
+      { i.toEquiv with
+        map_mul' := by intros; dsimp; erw [Iso.toEquiv_fun, asIso_hom, map_mul] }
```
Comment (semorrison) [inline Mathlib/Algebra/Category/GroupCat/Basic.lean:499]: Maybe a comment here saying it used to be by `aesop`? I'd like to not just let proofs rot like this.

File: Mathlib/Analysis/SpecialFunctions/Exponential.lean [hunk 13]
```diff
@@ -126,8 +126,12 @@ variable {𝕂 : Type*} [NontriviallyNormedField 𝕂] [CompleteSpace 𝕂]
 /-- The exponential map in a complete normed field `𝕂` of characteristic zero has strict derivative
 `exp 𝕂 x` at any point `x` in the disk of convergence. -/
 theorem hasStrictDerivAt_exp_of_mem_ball [CharZero 𝕂] {x : 𝕂}
-    (hx : x ∈ EMetric.ball (0 : 𝕂) (expSeries 𝕂 𝕂).radius) : HasStrictDerivAt (exp 𝕂) (exp 𝕂 x) x :=
-  by simpa using (hasStrictFDerivAt_exp_of_mem_ball hx).hasStrictDerivAt
```
Comment (semorrison) [inline Mathlib/Analysis/SpecialFunctions/Exponential.lean:130]: This probably deserves a comment preserving the original proof.

File: Mathlib/Analysis/SpecialFunctions/Integrals.lean [hunk 14]
```diff
@@ -91,7 +91,8 @@ theorem intervalIntegrable_rpow' {r : ℝ} (h : -1 < r) :
     rw [intervalIntegrable_iff] at m ⊢
     refine' m.congr_fun _ measurableSet_Ioc; intro x hx
     rw [uIoc_of_le (by linarith : 0 ≤ -c)] at hx
-    simp only [Pi.smul_apply, Algebra.id.smul_eq_mul, log_neg_eq_log, mul_comm,
+    rw [Pi.smul_apply]
```
Comment (semorrison) [inline Mathlib/Analysis/SpecialFunctions/Integrals.lean:94]: Let's leave a comment on all of these `rw [Pi.smul_apply]`, so it's possible to clean them all up at once if we ever sort out the problem.

File: Mathlib/Algebra/Category/GroupCat/Basic.lean [hunk 15]
```diff
@@ -505,7 +507,9 @@ set_option linter.uppercaseLean3 false in
 instance CommGroupCat.forget_reflects_isos : ReflectsIsomorphisms (forget CommGroupCat.{u}) where
   reflects {X Y} f _ := by
     let i := asIso ((forget CommGroupCat).map f)
-    let e : X ≃* Y := { i.toEquiv with map_mul' := by aesop }
+    let e : X ≃* Y :=
+      { i.toEquiv with
+        map_mul' := by intros; dsimp; erw [Iso.toEquiv_fun, asIso_hom, map_mul] }
```
Comment (mattrobball) [inline Mathlib/Algebra/Category/GroupCat/Basic.lean:512]: Added note here also

**Comment by mattrobball** [comment]
Worthwhile to note that mathlib users are still experiencing [timeouts solved by this change](https://leanprover.zulipchat.com/#narrow/stream/113489-new-members/topic/stuck.20with.20IntermediateField.20of.20IntermediateField/near/397340857)
